US08119661B2
Step A. The preparation tert-butyl 3-[4-[[(1R,2R)-2-aminocyclohexyl]amino]-1-piperidyl]-3-methyl-pyrrolidine-1-carboxylate (mixture of diastereomers)
Following the procedure used in step D of the example 7 and starting with tert-butyl 3-methyl-3-(4-oxo-1-piperidyl)pyrrolidine-1-carboxylate (300 mg, 1.06 mmol) and 1R,2R-diaminocyclohexane (244.2 mg, 2.12 mmol), the title compound was obtained (300 mg). MS (M+1): 381.30

reactant | tert-butyl 3-methyl-3-(4-oxo-1-piperidyl)pyrrolidine-1-carboxylate | 1.06 mmol, 300 mg | CC1(CN(CC1)C(=O)OC(C)(C)C)N1CCC(CC1)=O | C15H26N2O3
reactant | 1R,2R-diaminocyclohexane | 2.12 mmol, 244.2 mg | C1CC[C@H]([C@@H](C1)N)N | C6H14N2
product | tert-butyl 3-[4-[[(1R,2R)-2-aminocyclohexyl]amino]-1-piperidyl]-3-methyl-pyrrolidine-1-carboxylate | N[C@H]1[C@@H](CCCC1)NC1CCN(CC1)C1(CN(CC1)C(=O)OC(C)(C)C)C | C21H40N4O2
